datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])([S:14][H:22])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:18])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[S:14][H:22])([H:15])([H:16])[H:17],47.2792
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26][H:27]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:26][H:27],-5.652584
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:24])([H:25])[H:26])=[C:16]([C:17](=[C:18]([H:28])[H:29])[H:27])[C:19](=[C:20]([H:31])[H:32])[H:30])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:16]([C:14]([C:13](=[C:12]([H:21])[H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([C:17](=[C:18]([H:28])[H:29])[H:27])[C:19](=[C:20]([H:31])[H:32])[H:30])[H:5],30.2503
[C:0]([C:1]([C:2]([O:3][O:4])([H:13])[H:14])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:9])([H:13])[H:14])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:12])([H:10])[H:11],89.956
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]1([H:15])([H:16])[C:8]([H:17])([H:18])[C:9]2([H:19])[C:10]([H:20])([H:21])[C:11]([H:22])([H:23])[C:12]([H:24])([H:25])[C:13]2([H:26])[C:14]1([H:27])[H:28]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:19])[H:4].[C:7]1([H:15])([H:16])[C:8]([H:17])([H:18])[C:9]2[C:10]([H:20])([H:21])[C:11]([H:22])([H:23])[C:12]([H:24])([H:25])[C:13]2([H:26])[C:14]1([H:27])[H:28],23.8488
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[O:15][O:16][H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:12][O:15][O:16][H:17],68.99416
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:13])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:13])([H:11])[O:2]1.[O:3][H:12],43.932
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([O:6])([H:7])([H:8])[H:9]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:6][C:5]([H:7])([H:8])[H:9],23.3467
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8](=[S:9])[H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:10])([H:11])[H:12])([C:8](=[S:9])[H:14])[H:13],125.102
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:13])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])=[C:7]([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10],309.616
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9](=[C:10]([H:30])[H:31])[H:29])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[C:32](=[O:33])[H:34]>>[C-:32]#[O+:33].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9](=[C:10]([H:30])[H:31])[H:29])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])([H:12])[H:34],0.0
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([S:9][H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([C:7]([H:10])([H:11])[H:12])([S:9][H:14])[H:13],-8.368
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])([H:9])[H:10],33.3465
[H:4].[O:0]([O:1][H:3])[H:2]>>[O:0]([H:2])[H:4].[O:1][H:3],19.9718
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:13]([C:12](=[C:11]([H:15])[H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18])[C:4]([H:8])([H:9])[H:10])[H:5],34.8527
[O:0]=[N:1][O:2][H:3].[O:4][H:5]>>[H:3][O:4][H:5].[O:0]=[N:1][O:2],-2.17568
